US05095038
A mixture of methyl E-4-[7-(3-carboxyprop-1-enyl)naphth-1-ylmethyl]-3-methoxybenzoate and methyl 4-[7-(2,3,4,5-tetrahydro-5-oxofuran-2-yl)naphth-1-ylmethyl]-3-methoxybenzoate (2.52 g), ethyl acetate (70 ml) and 10% (w/w) palladium on carbon (0.25 g) was hydrogenated under atmospheric pressure for 18 h. The reaction mixture was filtered through diatomaceous earth with ethyl acetate wash. The filtrate was evaporated to give methyl 4-[7-(3-carboxypropyl)naphth-1-ylmethyl]-3-methoxybenzoate (2.42 g, 96%) as a yellow foam; MS(CI), m/e=392(M+H).

reactant | methyl E-4-[7-(3-carboxyprop-1-enyl)naphth-1-ylmethyl]-3-methoxybenzoate | C(=O)(O)C/C=C/C1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC | C24H22O5
reactant | methyl 4-[7-(2,3,4,5-tetrahydro-5-oxofuran-2-yl)naphth-1-ylmethyl]-3-methoxybenzoate | 2.52 g | O=C1CCC(O1)C1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC | C24H22O5
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | methyl 4-[7-(3-carboxypropyl)naphth-1-ylmethyl]-3-methoxybenzoate | 2.42 g, 96% | C(=O)(O)CCCC1=CC=C2C=CC=C(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC | C24H24O5
